US04937251
6-[2-(2-Pyridinyl)ethoxy]hexanamine
A solution of N-[6-[2-(2-pyridinyl)ethoxy]hexyl]benzenemethanamine (2.00 g) in ethanol (10 ml) was added to a pre-hydrogenated suspension of 10% palladium on carbon (50% paste, 800 mg) in ethanol (120 ml) and hydrogenated at room temperature and pressure. The catalyst was removed by filtration through hyflo and the solvent evaporated in vacuo. The residual oil was purified by FCC eluting with System A (39:10:1→32:17:1) to afford the title compound as a colourless liquid (0.99 g), t.l.c. (System A 39:10:1) Rf 0.16.

reactant | N-[6-[2-(2-pyridinyl)ethoxy]hexyl]benzenemethanamine | 2.00 g | N1=C(C=CC=C1)CCOCCCCCCNCC1=CC=CC=C1 | C20H28N2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 800 mg | [Pd] | Pd
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 6-[2-(2-Pyridinyl)ethoxy]hexanamine | 0.99 g | N1=C(C=CC=C1)CCOCCCCCCN | C13H22N2O
